US06693123B2
N-[4-(2-Imidazol-1-ylethoxy)-2-phenylbenzoyl]methionine Methyl Ester
The compound prepared in Example 957C (738 mg, 2.29 mmol) was dissolved in 5 mL of methanol. To this solution was added 4.5 mL of 1N NaOH solution and the mixture was refluxed for 5 hr. The solution was filtered and the filtrate was acidified with 1 N aqueous HCl to PH about 4.2. After cooling in ice bath, white crystals were collected (701 mg, 99% yield). m.p 242-244° C. This carboxylic acid (250 mg, 0.81 mmol) was coupled with (L)-methionine methyl ester in methylene chloride by using coupling reagent EDCI and HOBT. After the work up with sodium bicarbonate solution, the residue was purified by flash column chromatography (6% methanol in methylene chloride) to give the title compound as a white foam solid (340 mg, 93% yield). 1H NMR (CDCl3) δ 7.66 (d, J 8.6 Hz, 1H), 7.54 (s, 1H), 7.34-7.42 (m, 5H), 7.01 (br s, 2H), 6.85 (d, J=8.6 Hz, 1H), 6.76 (s, 1H), 6.00 (d, J=7.7 Hz, 1H), 4.60 (ddd, J=5.3, 5.7 and 7.7 Hz, 1H), 4.30 (t, J=4.9 Hz, 2H), 4.21 (t, J=4.9 Hz, 2H), 3.62 (s, 3H), 2.05 (t, J=7.6 hz, 2H), 1.97 (s, 3H), 1.81-1.92 (m, 1H), 1.61-1.73 (m, 1H); 13C NMR (CDCl3): δ 171.6, 168.3, 158.6, 141.5, 139.6, 137.0, 130.4, 128.8, 128.2, 127.9, 127.6, 119.0, 115.8, 112.8, 67.0, 51.9, 51.4, 45.8, 30.8, 19.1, 14.8.

reactant | NaOH | 1N, 4.5 mL | [OH-].[Na+]
reactant | (L)-methionine methyl ester | COC([C@@H](N)CCSC)=O | C6H13NO2S
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methanol | 5 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-(2-Imidazol-1-ylethoxy)-2-phenylbenzoyl]methionine Methyl Ester | 99% yield | COC([C@@H](NC(C1=C(C=C(C=C1)OCCN1C=NC=C1)C1=CC=CC=C1)=O)CCSC)=O | C24H27N3O4S
